Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.5163891623
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13],4.85847836187
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],4.65454883251
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.7211459160799998
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[O:8][H:9]>>[C:3]#[C:4][O:5][C:6]([H:7])[O:8][H:9].[H:1][C:2],7.39955019485
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1],7.78809028109
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-0.8347010475900001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],7.300612181469999
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-5.14757643773
[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])[H:10],-1.61245864073
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:10])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:9]#[C:11][H:12],1.6556017281600002
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.898574092180002
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.79759492034
[C:1].[C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8][H:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8][H:9],-3.92721185689
[C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-5.10697302561
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5],4.96017645362
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[H:8],4.2455294754400015
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.86647005796
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.05656611143
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6],1.64070776754
[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C@@:3]([H:4])([C:5][C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],4.99301664491
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2],2.80504392514
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.56126919389
[C:11]([H:12])[H:13].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-7.339815646810001
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],2.0072547505
[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],6.23873427702
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[O:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[H:8],0.4418497725
